US04325967
A solution of 1-chloroheptan-2-one (33 g.) and triphenylphosphine (60 g.) in chloroform (50 ml.) was saturated with nitrogen and refluxed under nitrogen overnight. The chloroform was removed in vacuo and the residue was dissolved in dichloromethane (150 ml.). Dry diethyl ether (600 ml.) was added to precipitate 2-oxoheptyltriphenylphosphonium chloride (60 g.), m.p. 165°-168° C. This compound (23 g.) was added portionwise to a solution of sodium carbonate (25 g.) in water (250 ml.) and the mixture was stirred vigorously for 24 hours. The solution was extracted with diethyl ether, and the ethereal extracts were dried over magnesium sulphate. The solvent was removed by evaporation and the residue was cooled and triturated with petroleum ether (b.p. 40°-60° C.). The solid thus obtained was recrystallised from petroleum ether (b.p. 60°-80° C.) to give hexanoylmethylenephenylphosphorane (17 g.), m.p. 73°-74° C.

reactant | 1-chloroheptan-2-one | 33 g | ClCC(CCCCC)=O | C7H13ClO
reactant | triphenylphosphine | 60 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | hexanoylmethylenephenylphosphorane | 17 g | C(CCCCC)(=O)C=[PH2]C1=CC=CC=C1 | C13H19OP
